US05811439
The same procedures used in Example 1 were repeated except for using 3.06 g of 2,5-difluorobenzyl bromide and 2.00 g of indole-3-carbaldehyde as a starting material to give 3.46 g of 1-(2,5-difluorobenzyl)indole-3-carbaldehyde as pale yellow crystals. The yield thereof was found to be 93%.

reactant | 2,5-difluorobenzyl bromide | 3.06 g | FC1=C(CBr)C=C(C=C1)F | C7H5BrF2
reactant | indole-3-carbaldehyde | 2.00 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | 1-(2,5-difluorobenzyl)indole-3-carbaldehyde | 3.46 g | FC1=C(CN2C=C(C3=CC=CC=C23)C=O)C=C(C=C1)F | C16H11F2NO
